US04556672
N-Isobutyryl-5-chloro-2-oxindole-1-carboxamide
To a stirred slurry of 8.38 g (0.05 mole) of 5-chloro-2-oxindole in 250 ml of toluene was added 6.79 g (0.06 mole) of isobutyryl isocyanate, and the reaction mixture was heated under reflux for 5.5 hours. The reaction mixture was cooled to room temperature, a small amount of insoluble material was removed by filtration, and then the solvent was removed by evaporation in vacuo. The residue was recrystallized from acetonitrile (with the aid of decolorizing carbon), followed by recrystallization from ethanol, to give 3.23 g of the title compound as pink crystals, m.p. 139°-141° C.

reactant | 5-chloro-2-oxindole | 0.05 mole, 8.38 g | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
reactant | isobutyryl isocyanate | 0.06 mole, 6.79 g | C(C(C)C)(=O)N=C=O | C5H7NO2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | N-Isobutyryl-5-chloro-2-oxindole-1-carboxamide | 3.23 g | C(C(C)C)(=O)NC(=O)N1C(CC2=CC(=CC=C12)Cl)=O | C13H13ClN2O3
